US09447084B2
3-[4-bromo-3-(trifluoromethyl)phenyl]-5-[3-chloro-5-(trifluoromethyl)phenyl]-5-(trifluoromethyl)-4,5-dihydro-1,2-oxazole
Into a 50-mL round-bottom flask, was placed (E)-N-[[4-bromo-3-(trifluoromethyl)phenyl]methylidene]hydroxylamine (1.5 g, 5.60 mmol, 1.00 equiv), dichloromethane (20 mL), 1-chloro-3-(trifluoromethyl)-5-(3,3,3-trifluoroprop-1-en-2-yl)benzene (1.6 g, 5.83 mmol, 1.10 equiv), NaOCl (10 mL). The resulting solution was stirred for 2 h at room temperature. The resulting solution was diluted with 30 mL of H2O. The resulting solution was extracted with 3×50 mL of dichloromethane and the organic layers combined. The resulting mixture was washed with 3×50 mL of brine. The mixture was dried over anhydrous sodium sulfate. The solids were filtered out. The resulting mixture was concentrated under vacuum. The residue was applied onto a silica gel column with ethyl acetate/petroleum ether (1:100). This resulted in 1.7 g (56%) of 3-[4-bromo-3-(trifluoromethyl)phenyl]-5-[3-chloro-5-(trifluoromethyl)phenyl]-5-(trifluoromethyl)-4,5-dihydro-1,2-oxazole as a light yellow solid.

reactant | (E)-N-[[4-bromo-3-(trifluoromethyl)phenyl]methylidene]hydroxylamine | 5.60 mmol, 1.5 g, 1.00 equiv | BrC1=C(C=C(C=C1)\C=N\O)C(F)(F)F | C8H5BrF3NO
reactant | dichloromethane | 20 mL | ClCCl | CH2Cl2
reactant | 1-chloro-3-(trifluoromethyl)-5-(3,3,3-trifluoroprop-1-en-2-yl)benzene | 5.83 mmol, 1.6 g, 1.10 equiv | ClC1=CC(=CC(=C1)C(=C)C(F)(F)F)C(F)(F)F | C10H5ClF6
reactant | NaOCl | 10 mL | [O-]Cl.[Na+]
solvent | H2O | 30 mL | O | H2O
product | 3-[4-bromo-3-(trifluoromethyl)phenyl]-5-[3-chloro-5-(trifluoromethyl)phenyl]-5-(trifluoromethyl)-4,5-dihydro-1,2-oxazole | BrC1=C(C=C(C=C1)C1=NOC(C1)(C(F)(F)F)C1=CC(=CC(=C1)C(F)(F)F)Cl)C(F)(F)F | C18H8BrClF9NO
